US06391874B1
4-Chloro-7-iodoquinazoline
7-Iodoquinazolin-4-one (0.46 g) was treated with phosphorous oxychloride (5 ml) at reflux under nitrogen for 2 hours. The mixture was cooled, evaporated and partitioned between saturated aqueous sodium carbonate and ethyl acetate. The organic phase was dried and concentrated in vacuo to give the title compound (0.43 g); m/z (M+1+) 291.

reactant | 7-Iodoquinazolin-4-one | 0.46 g | IC1=CC=C2C(NC=NC2=C1)=O | C8H5IN2O
reactant | phosphorous oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-7-iodoquinazoline | 0.43 g | ClC1=NC=NC2=CC(=CC=C12)I | C8H4ClIN2
